US07112582B2
NaNO2 (3.14 g) was added to the 1 mol/L HCl (33.7 mL) solution of (3R)-thiomorpholine-3-carboxylic acid (4.96 g) under a nitrogen atmosphere at 0° C. and stirred for 0.5 h. The solution was extracted with CHCl3 (5 times) and the organic layer was washed with brine. The mixture was dried over MgSO4 and concentrated under reduced pressure to afford crude (3R)-4-nitrosothiomorpholine-3-carboxylic acid as pale yellow crystals.

reactant | NaNO2 | 3.14 g | N(=O)[O-].[Na+]
reactant | HCl | 1 mol/L, 33.7 mL | Cl | ClH
reactant | (3R)-thiomorpholine-3-carboxylic acid | 4.96 g | N1[C@@H](CSCC1)C(=O)O | C5H9NO2S
product | (3R)-4-nitrosothiomorpholine-3-carboxylic acid | N(=O)N1[C@@H](CSCC1)C(=O)O | C5H8N2O3S
